* Integrated two-channel SKY130 beamformer core at the schematic boundary.
* Ideal voltage/current sources exist only in the external testbench. Inside
* the DUT are MOSFETs, resistors and small capacitors suitable for later
* replacement with layout-qualified PDK primitives.

.option scale=1e-6
.save all
.include "spice/sky130/sky130_1v8_tt.inc"
.include "spice/sky130/sky130_passives_tt.inc"

.param FIN=5meg
.param FLOPER=250n
.param VINPK=5m
.param VDDVAL=1.8
.temp 27

.subckt cmos_inv in out vdd vss params: wn=1.26 wp=2.0 l=0.15
XNI out in vss vss sky130_fd_pr__nfet_01v8 w={wn} l={l}
XPI out in vdd vdd sky130_fd_pr__pfet_01v8 w={wp} l={l}
.ends cmos_inv

.subckt transmission_gate a b en enb vdd vss params: wn=4 wp=8
XNT a en b vss sky130_fd_pr__nfet_01v8 w={wn} l=0.15
XPT a enb b vdd sky130_fd_pr__pfet_01v8 w={wp} l=0.15
.ends transmission_gate

.subckt mixer_channel sig ref lop lon outp outn vbias vss
* The gm and commutating devices use twice the v1 area.  The physical view
* implements each logical device as two equal halves in a common-centroid
* arrangement, reducing both random mismatch and first-order gradients.
XGM1 gm_p sig tail vss sky130_fd_pr__nfet_01v8 w=16 l=0.30
XGM2 gm_n ref tail vss sky130_fd_pr__nfet_01v8 w=16 l=0.30
XSW1 outp lop gm_p vss sky130_fd_pr__nfet_01v8 w=16 l=0.15
XSW2 outn lon gm_p vss sky130_fd_pr__nfet_01v8 w=16 l=0.15
XSW3 outn lop gm_n vss sky130_fd_pr__nfet_01v8 w=16 l=0.15
XSW4 outp lon gm_n vss sky130_fd_pr__nfet_01v8 w=16 l=0.15
* Ratioed against the 32 um reference device for low-VDS compensation.
XTAIL tail vbias vss vss sky130_fd_pr__nfet_01v8 w=38 l=0.50
.ends mixer_channel

.subckt beamformer_core vdd vss clk select sig1 sig2 outp outn
* Self-starting shared current reference: 1.41 um high-res poly, L=44.9768 um.
XRBias vdd vbias vss sky130_fd_pr__res_high_po_1p41 l=44.9768
* Two parallel 16 um unit cells implement the 32 um diode.  The split keeps
* diffusion/gate access compact and provides a physical structure that can be
* matched and independently checked instead of one fragile 17-finger PCell.
XBIASA vbias vbias vss vss sky130_fd_pr__nfet_01v8 w=16 l=0.50
XBIASB vbias vbias vss vss sky130_fd_pr__nfet_01v8 w=16 l=0.50

* Ratio-derived VCM and input bias use 1.41 um extra-high-res poly, L=70.5 um.
* The VCM bypass is a 22 x 22 um M3 MIM capacitor (~0.98 pF).
XRVCMT vdd vcm vss sky130_fd_pr__res_xhigh_po_1p41 l=70.5
XRVCMB vcm vss vss sky130_fd_pr__res_xhigh_po_1p41 l=70.5
XCVCM vcm vss sky130_fd_pr__cap_mim_m3_1 w=22 l=22 mf=1
XRIN1 sig1 vcm vss sky130_fd_pr__res_xhigh_po_1p41 l=70.5
XRIN2 sig2 vcm vss sky130_fd_pr__res_xhigh_po_1p41 l=70.5

* Buffered in-phase and complementary LO rails from the single clk input.
XLP1 clk lp1 vdd vss cmos_inv wn=2.4 wp=4
XLP2 lp1 lop vdd vss cmos_inv wn=16 wp=32
XLN1 clk ln1 vdd vss cmos_inv wn=2.4 wp=2.4
XLN2 ln1 ln2 vdd vss cmos_inv wn=4 wp=8
XLN3 ln2 lon vdd vss cmos_inv wn=16 wp=32

* Static CMOS routing selects 0 or 180 degree LO weighting for channel two.
* Both channels pass through one transmission gate and one matched final
* inverter.  Channel one's gates are permanently enabled; channel two selects
* the in-phase or inverted source.  Equal topology and loading are important
* for null depth and make the LO path more tolerant of higher input clocks.
XSELB select select_b vdd vss cmos_inv wn=2.4 wp=4
X1DP lon ch1_lop_raw vdd vss vdd vss transmission_gate
X1DN lop ch1_lon_raw vdd vss vdd vss transmission_gate
XDP lon ch2_lop_raw select_b select vdd vss transmission_gate
XDN lop ch2_lon_raw select_b select vdd vss transmission_gate
XXP lop ch2_lop_raw select select_b vdd vss transmission_gate
XXN lon ch2_lon_raw select select_b vdd vss transmission_gate
XCH1LP ch1_lop_raw ch1_lop vdd vss cmos_inv wn=8 wp=16
XCH1LN ch1_lon_raw ch1_lon vdd vss cmos_inv wn=8 wp=16
XCH2LP ch2_lop_raw ch2_lop vdd vss cmos_inv wn=8 wp=16
XCH2LN ch2_lon_raw ch2_lon vdd vss cmos_inv wn=8 wp=16

* Matched 1.41 um high-res poly loads, L=11.6117 um (~2.93 kohm each).
XRLOADP vdd outp vss sky130_fd_pr__res_high_po_1p41 l=11.6117
XRLOADN vdd outn vss sky130_fd_pr__res_high_po_1p41 l=11.6117
XCH1 sig1 vcm ch1_lop ch1_lon outp outn vbias vss mixer_channel
XCH2 sig2 vcm ch2_lop ch2_lon outp outn vbias vss mixer_channel
.ends beamformer_core

* External package/bench fixtures for simultaneous sum and difference modes.
VCLK clk 0 pulse(0 {VDDVAL} 100n 2n 2n 123n {FLOPER})
VSEL0 select0 0 0
VSEL1 select1 0 {VDDVAL}
VDDS vdds 0 {VDDVAL}
VDDN vddn 0 {VDDVAL}

VS1S s1s_src 0 sin(0 {VINPK} {FIN})
VS2S s2s_src 0 sin(0 {VINPK} {FIN})
VS1N s1n_src 0 sin(0 {VINPK} {FIN})
VS2N s2n_src 0 sin(0 {VINPK} {FIN})

* AC coupling is external; 500 ohm / 5 pF models the maximum TT path.
CCS1 s1s_src s1s_pre 100p
RSS1 s1s_pre s1s 500
CSS1 s1s 0 5p
CCS2 s2s_src s2s_pre 100p
RSS2 s2s_pre s2s 500
CSS2 s2s 0 5p
CCN1 s1n_src s1n_pre 100p
RSN1 s1n_pre s1n 500
CSN1 s1n 0 5p
CCN2 s2n_src s2n_pre 100p
RSN2 s2n_pre s2n 500
CSN2 s2n 0 5p

XSUM vdds 0 clk select0 s1s s2s soutp soutn beamformer_core
XNULL vddn 0 clk select1 s1n s2n noutp noutn beamformer_core

* Maximum output loading through the analog path.
RSOP soutp sopad 500
RSON soutn sonad 500
CSOP sopad 0 10p
CSON sonad 0 10p
RSPL sopad 0 1meg
RSNL sonad 0 1meg
RNOP noutp nopad 500
RNON noutn nonad 500
CNOP nopad 0 10p
CNON nonad 0 10p
RNPL nopad 0 1meg
RNNL nonad 0 1meg

ESDIFF sdiff 0 sonad sopad 1
ENDIFF ndiff 0 nonad nopad 1
BSCM scm 0 v=(v(sopad)+v(sonad))/2
BNCM ncm 0 v=(v(nopad)+v(nonad))/2

* External 2 MHz measurement filters.
RSF1 sdiff sf1 1k
CSF1 sf1 0 79.577p
RSF2 sf1 sfilt 1k
CSF2 sfilt 0 79.577p
RNF1 ndiff nf1 1k
CNF1 nf1 0 79.577p
RNF2 nf1 nfilt 1k
CNF2 nfilt 0 79.577p

.tran 2n 25u 15u
.measure tran sum_rms rms v(sfilt) from=15u to=25u
.measure tran null_rms rms v(nfilt) from=15u to=25u
.measure tran sum_cm avg v(scm) from=15u to=25u
.measure tran null_cm avg v(ncm) from=15u to=25u
.measure tran sum_supply avg i(VDDS) from=15u to=25u
.measure tran null_supply avg i(VDDN) from=15u to=25u

.end
